Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Minoxidil
 
Attending: ___.
 
Chief Complaint:
Mechanical fall  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ man with a history of atrial 
fibrillation (anticoagulated on Coumadin), diastolic heart 
failure, ___ renal transplant and failed pancreas transplant, 
hypertesnion who is presenting following a mechanical fall at 
home and found to be dyspneic in the Emergency Department. He 
reports that he tripped over a backpack at home and struck his 
head on the front of the sofa. he denies any dizziness or loss 
of consciousness before or after the fall. He did not have any 
confusion after the fall nor did he lose his urinary continence. 
Mr. ___ is experiencing pain in his right rib cage along the 
mid-axillary line and in his neck and upper shoulder muscles. He 
reports improvement in his pain after receiving morphine. The 
patient also reports that his dyspnea on exertion has been 
somehat worse for the last several months. He can walk a 
straight line for about ___ yards before becoming short of 
breath; he can sometimes handle two flights of stairs. When he 
feels like he has "fluid on board," his performance decreases. 
He has had occasional lower leg swelling. He denies any recent 
changes in his medications.  
.  
In the ED, the initial vital signs were T 97.8, HR 65, BP 
121/69, RR 16 84% on RA. He received both CT head and neck, both 
of which were negative. The patient also received chest X-ray 
and dedicated rib films have enlarged heart, moderate pulmonary 
edema slightly worsened, right pleural effusion resolved, no 
left sided pleural effusion, remote fracture in rib 6, no acute 
fracture. Bedside FAST negative. The patient received Zofran, 
morphine, and 40mg IV Lasix in the Emergency Department. Vitals 
on transfer were 97.2, 133/79, 70, 18, 94% 4LNC.  
.  
On the floor, the patient is comfortable at rest in bed, though 
he has some pain with deep breaths and with movement. He is 
somewhat sleepy but fully oriented and capable of providing his 
history
 
Past Medical History:
-pheochromocytoma ___ R adrenalectomy ___ (Dr ___  
-diabetes Mellitus, Type I - since age ___  
-ESRD ___ CRT ___ - post-op course complicated by delayed  
graft function and hydronephrosis ___ ureteral stent and  
percutaneous nephrostomy in ___. Now with renal insufficiency  
with baseline creatinine 2.5-3.0.  
-pancreas transplant ___, rejected ___  
-h/o partial SBO - treated conservatively  
-hypertension  
-coronary Artery Disease ___ stent of Ramus Intermedius in ___  

-paroxysmal Atrial Fibrillation  
-___ ventral hernia repair with mesh in ___  
-orthostatic hypotension  
-medial malleolar fracture ___ - treated with Keflex and  
Vicodin. Ortho evaluation ___ - no infection, no ulcer.  

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory. Brother has 
diabetes.
 
Physical Exam:
Admission exam
VS - Temp 96.0F, BP 134/79, HR 67, R 18, O2-sat 94% 4L  
GENERAL - NAD, comfortable, appropriate  
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, MMM, oropharynx 
clear  
NECK - supple, no JVD, no carotid bruits  
LUNGS - mild crackles at bases, good air movement, resp 
unlabored, no accessory muscle use  
CHEST: tenderness to palpation on right ribcage, midaxillary  
HEART - S1, S2, ___ systolic murmur heard at USB  
ABDOMEN - NABS, soft, nontender, no rebound/guarding  
EXTREMITIES - WWP, no pitting edema of lower extermities, sking 
changes in lower legs consistent with longstanding stasis/edema  

NEURO - awake, A&Ox3, CNs III-XII grossly intact, muscle 
strength ___ throughout, sensation grossly intact throughout  

Discharge exam
Afebrile, BP HR R O2Sat 92% on RA @ rest, 91-94% when ambulating
Lungs clear to auscultation with minimal basilar crackles
 
Pertinent Results:
Admission labs
___ 05:50PM BLOOD WBC-6.9 RBC-3.22* Hgb-9.2* Hct-29.4* 
MCV-91 MCH-28.6 MCHC-31.3 RDW-14.3 Plt ___
___ 05:50PM BLOOD Neuts-88.0* Lymphs-6.4* Monos-3.3 Eos-1.8 
Baso-0.5
___ 05:50PM BLOOD ___ PTT-47.8* ___
___ 05:50PM BLOOD Glucose-191* UreaN-73* Creat-2.9* Na-137 
K-4.1 Cl-105 HCO3-21* AnGap-15
___ 01:38AM BLOOD CK(CPK)-479*
___ 05:50PM BLOOD ___
___ 05:50PM BLOOD cTropnT-0.03*
___ 06:02AM BLOOD Calcium-8.2* Phos-5.7* Mg-1.9

Discharge labs
.
WBC 6.4 Hgb 8.9 Hct 27.1 Plts 361 
.
___: 17.2  PTT: 41.0  INR: 1.6 
. 
143  105  57   
-------------< 113 
3.6  24  4.0  
.
Ca: 9.6 Mg: 2.0 P: 5.4
.
Important other labs
___ 06:32AM BLOOD TSH-5.3*
___ 06:32AM BLOOD T4-5.8
___ 06:32AM BLOOD PTH-183*
___ 06:32AM BLOOD Cyclspr-119
.
Studies
CT head ___
There is no evidence of acute intracranial hemorrhage, mass 
effect or shift of normally midline structures. There is no 
cerebral edema or loss of gray-white matter differentiation to 
suggest an acute ischemic event. Sulci and ventricles are 
prominent, likely age related involutional changes. Mild 
confluent periventricular hypodensities, likely represent 
sequela of small vessel ischemic disease. A focal hypodensity of 
in the right putamen (2:17), may represent a remote lacunar 
infarct or a prominent ___ space.  Extensive 
intracranial and extracranial vascular calcifications are noted. 
 Rounded density within the right maxillary sinus, likely 
represents a retention cyst. The remainder of paranasal sinuses 
and mastoid air cells appear well aerated. 
.
CT C-spine ___
There is no evidence of acute fracture or malalignment. 
Multilevel 
degenerative disc disease involving the cervical spine is most 
pronounced at C5-C6 and C6-C7 with endplate sclerosis and 
intervertebral disc space 
narrowing. There is posterior disc osteophyte complex formation 
at the 
corresponding levels with mild impingement on the thecal sac. 
There is no 
critical central canal stenosis.  Imaged lung apices demonstrate 
thickening of interlobular septae compatible with intersitial 
edema. Thyroid displays homogeneous attenuation. Extensive 
vascular calcifications are noted. Round density projecting over 
right maxillary sinus is partially imaged and likely represents 
a retention cyst. 1. No evidence of acute fracture or 
malalignment. Multilevel degenerative 
disc disease of the cervical spine, as described above. In the 
setting of 
high clinical suspicion for ligamentous or cord injury, may 
consider MR for further assessment. 2. Instersitial edema in 
imaged lung apices. 
.
AP SUPINE VIEW OF THE CHEST, THREE VIEWS OF RIGHT-SIDED RIBS: 
Heart remains moderately enlarged. The mediastinal and hilar 
contours are stable. There is moderate interstitial pulmonary 
edema, which appears slightly worse in the interval. Previously 
noted right pleural effusion and right basilar opacification has 
essentially resolved. There is no pneumothorax or left-sided 
pleural effusion visualized. A BB marker indicating the site of 
patient's tenderness is located adjacent to the sixth right 
lateral rib.  Irregularity of this rib is compatible with a 
remote fracture, as seen on the prior chest CT from ___. No acute fractures are visualized.  Multiple clips are 
demonstrated within the right upper quadrant of the abdomen. 
IMPRESSION: No acutely displaced rib fractures visualized, with 
remote right lateral sixth rib fracture. Moderate interstitial 
pulmonary edema. 
.
Scrotal U/S
The patient reports a longstanding history of swelling in the 
right 
hemiscrotum, which is also corroborated with a CT from ___, 
which shows right-sided hydrocele in the imaged portion of the 
scrotum. On 
today's examination, a complex-appearing hydrocele is again 
present in the 
upper part of the right hemiscrotum with internal echoes and 
septations 
(images 1 through 4). There is marked enlargement of the scrotum 
on gross 
inspection, which corresponds to a 5.2 x 6.6 x 8.0 cm 
heterogeneously echoic collection without internal vascularity, 
which is consistent in appearance with a hematoma. While on 
initial imaging, this appeared to be located in the left 
hemiscrotum, views obtained with a curved transducer showed that 
the hematoma is located in the right inferior hemiscrotum (image 
75). The left testis is displaced superiorly towards the 
inguinal region. The right testis is slightly displaced by the 
right hemiscrotal hematoma and measures 3.6 x 1.6 x 5.4 cm. 
Normal color flow and waveforms are identified within the right 
testis using color and spectral Doppler analysis. The testis 
shows a homogeneous and symmetric echotexture without evidence 
of laceration.  The left testis, also displaced, measures 2.4 x 
2.9 x 4.0 cm and shows a homogeneous echotexture with normal 
color flow and waveforms. There is a trace left-sided hydrocele. 
Vascular calcifications are noted bilaterally.  On the right, 
the epididymal head contains a tiny epididymal cyst. The 
bilateral epididymides demonstrate normal echogenicity. 
IMPRESSION: 1. The marked scrotal enlargement correlates with a 
heterogeneously echoic hematoma located within the right 
hemiscrotum measuring 8 cm with no internal vascularity. There 
is no evidence of testicular parenchymal abnormality, though 
both right and left testes are displaced by the hematoma. No 
sonographic evidence of testicular torsion or vascular 
compromise. Recommend followup imaging after resolution of 
symptoms to confirm resolution of the right testicular 
collection. 2. Complex right-sided hydrocele and trace 
left-sided hydrocele. The complex right-sided component has been 
present since at least ___. 
.
CXR ___
Mild to moderately severe interstitial pulmonary edema has 
improved since 
___. Mildly enlarged heart size is unchanged. 
Mediastinal and hilar contours are stable. There are no discrete 
lung opacities concerning for an superadded or coexisting 
pneumonia. There is no pleural effusion or pneumothorax. 
IMPRESSION: Mild to moderately severe interstitial pulmonary 
edema has improved since ___. Mildly enlarged 
heart size is stable. 
.
CT Abd/Pelvis/chest ___
CT OF THE THORAX: There is diffuse alveolar consolidation 
involving all 
lobes, particularly the lower lobes as well as thickening of the 
interlobular septa. There are small bilateral pleural effusions. 
Air bronchograms are noted coursing through the areas of 
consolidation. The thyroid gland is unremarkable. There is no 
supraclavicular or axillary lymphadenopathy. There are several 
prominent mediastinal lymph nodes (2:25) that do not meet 
pathologic criteria. Hilar lymphadenopathy cannot be assessed 
due to consolidation. A 10-mm calcification adjacent to the 
brachiocephalic artery (2:13) is stable from ___. 
There is cardiomegaly and atherosclerotic calcifications of the 
coronary arteries. Hypodensity of the cardiac chambers is 
suggestive of anemia. There are atherosclerotic calcifications 
of the aortic arch. Mitral annulus is calcified. A small hiatal 
hernia is again noted. CT OF THE ABDOMEN: Surgical mesh for 
repair of the ventral hernia is stable. No focal liver lesions 
are identified on this non-contrast CT. Post-surgical clips from 
prior right adrenalectomy are noted. The gallbladder is 
distended, likely due to fasting. The pancreas is not well 
visualized, and is likely 
atrophic. The left adrenal gland is normal. The native kidneys 
are atrophic. There are diffuse calcifications of the abdominal 
vasculature. There is no mesenteric or retroperitoneal 
lymphadenopathy. There is no free air or free fluid. The small 
bowel is unremarkable. CT OF THE PELVIS: The appendix is normal. 
There is sigmoid diverticulosis without evidence of 
diverticulitis. The rectum, seminal vesicles, and prostate are 
unremarkable. A Foley catheter is noted in the lumen of the 
gallbladder. There is no pelvic lymphadenopathy or free fluid. 
The renal transplant is remarkable. OSSEOUS STRUCTURES: There is 
severe intervertebral disc space narrowing and endplate 
sclerosis at L3-L4. There are no suspicious osseous lytic or 
blastic lesions. IMPRESSION: 1. Extensive bilateral pulmonary 
consolidation and septal edema, consistent with pulmonary edema. 
Bilateral small pleural effusions. 2. Severe degenerative 
changes of the lumbar spine at L3-L4. No other CT findings to 
explain acute back pain. 3. Cardiomegaly and coronary artery 
disease. 
.
CXR ___- Since ___, mild pulmonary edema, 
small bilateral pleural effusions and bilateral lower lung 
atelectasis (left side more than right), have improved. Mildly 
enlarged heart size, mediastinal and hilar contours are stable. 
There is no pneumothorax. 
  IMPRESSION: Since ___, mild pulmonary edema, 
small effusions and left lower lung atelectasis have improved. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with history of atrial 
fibrillation (on coumadin), diastolic heart failure, ___ renal 
transplant (on mycophenolate, cyclosporine, prednisone 
immunosuppresion), failed pancreas transplant, hypertension, 
admitted for injuries sustained after mechanical fall and 
dyspnea, transferred to MICU for hypoxia. 

# Hypoxia: History of chronic diastolic heart failure with 
recent exacerbations over the past several months, has been 
getting diuresed prior to transfer to the ICU but continued to 
be hypoxic on NRB. BNP >15000 which was actually decreased from 
most recent BNP in ___ although still signficantly 
elevated. Temporal association of increasing hypoxia ___ FFP 
tranfusion raises suspicion of fluid overload (transfusion 
association circulatory overload).  CXR consistent with fluid 
overload, but also could not rule out infectious process in 
patient that has underlying immunosuppression.  He did develop a 
fever in the MICU and CT torso showed multifactorial pneumonia 
and Right-sided effusion.  He was treated with diuresis and 
antibiosed for 8 days with vancomycin/zosyn/levofloxacin for 
HCAP.  ECG showed atrial fibrillation with changes c/w old ECGs, 
however new T wave changes in V5/V6, so his cardiac enzymes were 
trended and remained flat.  He was never intubated or placed on 
bipap. He was weaned off high flow mask and was satting well on 
nasal cannula so was transferred to the general medicine floor.  
He was -1.8L fluid after ICU stay with elevated JVD suggesting 
he was still volume up so he was continued on lasix at 80mg po 
BID per renal recs. He was discharged on lasix 60mg po BID. On 
the floor, he was weaned off of oxygen with continued diuresis.  
At the time of discharge, his oxygen saturations were 92-94% on 
RA at rest, and 89-94% when ambulating.
.
# Acute on chronic renal failure: ___ renal transplant in ___. 
Creatinine was within patient's typical baseline range on 
admission.  He was continued on his immunosuppressive regimen 
(mycophenolate, cyclosporine, and prednisone).  Mycophenolate 
was initially decreased to half dose in setting of infection, 
but was back to home dose on transfer to the floor.  Cinacalcet 
was discontinued as patient's calcium was low.  This should be 
restarted based on outpatient follow-up labs.  Calcium 
supplementation was continued. Bactrim SS prophylaxis was 
continued throughout admission.  Per transplant nephrology 
recommendations, patient was started on renogel 800mg TID with 
meals.  Creatinine bumped slightly with lasix, and lasix was 
decreased to 60mg BID at the time discharge.  Patient will need 
creatinine rechecked on ___.
.
# Acute onset back pain: In setting of elevated INR w/ scrotal 
hematoma retroperitoneal bleed is possible, although INR was 
only midly elevated and his hematocrit has been stable. This 
pain was different in nature and location from his pain ___ 
fall.  A CT torso was performed which showed no aortic pathology 
or RP bleed but did show a single non-displaced rib fracture.  
His pain was controlled with tylenol, oxycodone and lidocaine 
patch and his hemotocrit remained stable.  
.
# Atrial fibrillation: INR supratherapeutic. Coumadin held and 
was reversed with FFP 4 units and vitamin K 5mg due to concern 
for RP bleed as above.  Restarted coumadin on ___, and 
patient was slowly titrated up to 4mg on the day of discharge.  
INR was 1.6 on the day of discharge, and patient will need INR 
checked at ___ clinic on ___.
.
# Right scrotal hematoma: Secondary to fall and supratherapeutic 
INR. Has been evaluated by Urology, no acute interventions 
needed during this admission. Groin was monitored; it remained 
stable and pt reported decrease in size at the time of discharge 
to the general medicine floor.
.
# Adrenal insufficiency ___ right adrenalectomy in ___: 
Continued home regimen of fludricortisone.  
  
# Anemia: Patient appears to be around his typical baseline. 
Anemia secondary to kidney failure.    
  
# Type I diabetes mellitus: Continued home glargine regimen and 
provided sliding scale insulin.  
  
# Coronary artery disease (CAD) ___ stent of Ramus Intermedius 
in ___: Continued home aspirin and statin therapy.  
  
# GERD: Continued home pantoprazole.  
  
TRANSITIONAL ISSUES:
# Will need INR and creatinine checked on ___
# Cinacalcet held at time of discharge. Check ca/phos/PTH levels 
as outpt
# Started renogel 800mg TID
# Lasix increased to 60mg PO BID as outpt
# Repeat testicular U/S once this acute episode resolves, to see 
if there is an underlying predisposition to bleeding, urology 
follow-up appointment scheduled
 
Medications on Admission:
amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
cinacalcet 30 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
cyclosporine modified 25 mg Capsule Sig: Four (4) Capsule PO  
Q12H (every 12 hours).  
fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY  
(Daily).  
Lasix 20 mg Tablet Sig: Three (3) Tablet PO once a day.  
insulin glargine 100 unit/mL Solution Sig: One (1) injection  
Subcutaneous once a day: as directed, 12 unit at bedtime.  
Metoprolol tartrate 50 mg Tablet Sig: 1.5 Tablets PO BID (2  
times a day).  
mycophenolate mofetil 500 mg Tablet Sig: Two (2) Tablet PO  
BID (2 times a day).  
pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One  
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
pravastatin 20 mg Tablet Sig: Four (4) Tablet PO HS (at  
bedtime).  
prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable  
PO DAILY (Daily).  
calcium carbonate-vitamin D2 600 mg calcium- 200 unit  
Capsule Sig: One (1) Capsule PO twice a day.  
omega-3 fatty acids-vitamin E Oral  
sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1)  
Tablet PO DAILY (Daily).  
Coumadin 2 mg Tablet Sig: ___ Tablets PO once a day: as 
directed.  

 
Discharge Medications:
1. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

2. cyclosporine modified 100 mg Capsule Sig: One (1) Capsule PO 
Q12H (every 12 hours).  
3. fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. metoprolol tartrate 25 mg Tablet Sig: Three (3) Tablet PO BID 
(2 times a day).  
5. pravastatin 20 mg Tablet Sig: Four (4) Tablet PO HS (at 
bedtime).  
6. prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
8. calcium carbonate-vitamin D2 600 mg calcium- 200 unit Capsule 
Sig: One (1) Capsule PO twice a day.  
9. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
10. omega-3 fatty acids     Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
11. mycophenolate mofetil 500 mg Tablet Sig: Two (2) Tablet PO 
BID (2 times a day).  
12. warfarin 2 mg Tablet Sig: ___ Tablets PO Once Daily at 4 ___. 
 
13. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
14. furosemide 20 mg Tablet Sig: Three (3) Tablet PO BID (2 
times a day).
Disp:*180 Tablet(s)* Refills:*0*
15. ferrous sulfate 300  mg (60 mg iron) Tablet Sig: One (1) 
Tablet PO BID (2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
16. insulin glargine 100 unit/mL Solution Sig: Twelve (12) Units 
Subcutaneous at bedtime.  
17. sevelamer HCl 400 mg Tablet Sig: Two (2) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).
Disp:*180 Tablet(s)* Refills:*0*
18. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
One (1)  Inhalation PRN as needed for shortness of breath or 
wheezing.
Disp:*1 INH* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Pneumonia
Congestive Heart Failure

Secondary:
End stage renal disease ___ renal transplant
Diabetes mellitus type 1

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your recent 
admission to ___.

You were admitted to the hospital after a fall and because you 
were short of breath. You were evaluated with CT scans which 
showed no evidence of acute fractures. Your breathing worsened 
and you were transferred to the medical ICU for intensive 
breathing support. You were diagnosed with and treated for 
pneumonia and a exacerbation of your congestive heart failure. 
We decreased the fluid overload in your lungs with lasix, and 
you completed a course of antibiotics. 

You were also found to have a blood clot (hematoma) in your 
scrotum. You were seen by urology who felt that no intervention 
was necessary.

Please have both your INR and CREATININE checked on ___

We have made the following changes to your medications:
- INCREASE lasix to 60mg TWICE a day
- START iron pill twice daily
- START renogel 800mg three times a day, with meals
- STOP cinacalcet

Please continue the remainder of your medications as prescribed 
prior to admission. Please see the attached medication list.
 
Followup Instructions:
___